US05268377
1-t-Butoxycarbonyl-4-{2-(t-butoxycarbonyl-amino)ethyl}imidazole (78.1 g) is dissolved in acetonitrile (500 ml), and thereto is added methoxymethyl chloride (22.2 g), and the mixture is stirred at room temperature overnight. The reaction solution is poured into 10% aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The extract is washed, dried, and the solvent is distilled off to give 4-{2-(t-butoxycarbonyl-amino)ethyl]-3-methoxymethylimidazole (54.4 g) as oil.

reactant | 1-t-Butoxycarbonyl-4-{2-(t-butoxycarbonyl-amino)ethyl}imidazole | 78.1 g | C(C)(C)(C)OC(=O)N1C=NC(=C1)CCNC(=O)OC(C)(C)C | C15H25N3O4
reactant | methoxymethyl chloride | 22.2 g | COCCl | C2H5ClO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-{2-(t-butoxycarbonyl-amino)ethyl]-3-methoxymethylimidazole | 54.4 g | C(C)(C)(C)OC(=O)NCCC=1N(C=NC1)COC | C12H21N3O3
